US09255110B2
A mixture of 6-methoxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-chloro-2-piperidin-1-yl-phenyl)-amide (100 mg) and sodium methanethiolate (45 mg) in N,N-dimethylformamide (ca. 2 mL) was heated in a sealed tube at 160° C. for 48 hours. The resulting mixture was evaporated under reduced pressure and the residue was dissolved in a mixture of chloroform and methanol, absorbed onto silica gel and purified by flash chromatography (DCM/MeOH/AcOH) to give 25.4 mg (26% yield) of 6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-chloro-2-piperidin-1-yl-phenyl)-amide as a yellow solid. MS=372 [M+H]+; MP>300° C.

reactant | 6-methoxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-chloro-2-piperidin-1-yl-phenyl)-amide | 100 mg | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC(=C2)OC)N2CCCCC2 | C19H20ClN5O2
reactant | sodium methanethiolate | 45 mg | C[S-].[Na+]
solvent | N,N-dimethylformamide | ca. 2 mL | CN(C=O)C | C3H7NO
product | 6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-chloro-2-piperidin-1-yl-phenyl)-amide | 25.4 mg, 26% yield | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC(=C2)O)N2CCCCC2 | C18H18ClN5O2
